US07632800B2
Preparation of 2-Ethyl-1-Methyl-alpha-Pentyl-Cyclopropanemethanol
To a dry 2 liter multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an addition funnel 8 g of a ZnCu and 75 ml of Methyl Tertiary Butyl Ether (MTBE) was added. The resulting mixture was stirred for 5 minutes. After the temperature of the mixture was stabilized, 24 g of CH2I2 was added over 10 minutes while stirring. After the temperature of the mixture was stabilized, the mixture was heated to reflux. As the temperature of the mixture reached 44° C., 17 g of 4-methyl-3-decene-5-ol was added over 30 minutes. After the addition of 4-methyl-3-decene-5-ol, a first sample was taken. Additional samples were taken every hour for three hours. Then the sample was quenched with saturated NH4Cl, aqueous layer separated and the organic layer filtered through celite.

reactant | CH2I2 | 24 g | C(I)I | CH2I2
reactant | 4-methyl-3-decene-5-ol | 17 g | CC(=CCC)C(CCCCC)O | C11H22O
solvent | Methyl Tertiary Butyl Ether | 75 ml | C(C)(C)(C)OC | C5H12O
product | 2-Ethyl-1-Methyl-alpha-Pentyl-Cyclopropanemethanol | C(C)C1C(C1)(C(O)CCCCC)C | C12H24O
